US08748348B2
1.8: 6-trifluoromethyl-3-(2,2,7-trifluoro-3-oxo-4-prop-2-ynyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-1H-pyrimidine-2,4-dione
A solution of (E)-ethyl 3-amino-4,4,4-trifluorobut-2-enoate (4.24 g, 23.2 mmol) was added dropwise at 5° C. under N2 to a stirred solution of sodium hydride (1.01 g of a 55% suspension in mineral oil, 23.2 mmol) in dry DMF. The light yellow suspension was stirred for 1 hour, while allowing the reaction mixture to warm to room temperature. After that period, a solution of 2,2,7-trifluoro-6-isocyanato-4-(prop-2-ynyl)-2Hbenzo[b][1,4]oxazin-3(4H)-one (6.54 g, 23.2 mmol) in toluene was added dropwise, after which the mixture was heated at 80° C. overnight under nitrogen. As LC/MS indicated that the reaction was not fully complete, heating was continued for a further 3 hours at 100° C., after which the light brown solution was concentrated in vacuo. The dark residue was partitioned between ethyl acetate and aqueous ammonium chloride solution, and the aqueous phase was extracted with additional ethyl acetate. The combined organic fractions were washed with brine and dried over Na2SO4. Filtration and evaporation of the solvent gave 10.68 g crude brown oil. This was purified by column chromatography (EtOAc:heptane, 20-60%) to give three fractions in which the desired product was the major component (present as a mixture of keto and enol tautomers). These three fractions were combined and further purified by column chromatography, eluting with di-isopropyl ether, to give the product (3.0 g) as an off-white fluffy solid (94% purity according to NMR, with ca. 20% existing as the enol tautomer).

reactant | (E)-ethyl 3-amino-4,4,4-trifluorobut-2-enoate | 23.2 mmol, 4.24 g | N/C(=C/C(=O)OCC)/C(F)(F)F | C6H8F3NO2
reactant | sodium hydride | [H-].[Na+]
reactant | 2,2,7-trifluoro-6-isocyanato-4-(prop-2-ynyl)-2Hbenzo[b][1,4]oxazin-3(4H)-one | 23.2 mmol, 6.54 g | FC1(C(N(C2=C(O1)C=C(C(=C2)N=C=O)F)CC#C)=O)F | C12H5F3N2O3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-trifluoromethyl-3-(2,2,7-trifluoro-3-oxo-4-prop-2-ynyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-1H-pyrimidine-2,4-dione | FC(C1=CC(N(C(N1)=O)C=1C(=CC2=C(N(C(C(O2)(F)F)=O)CC#C)C1)F)=O)(F)F | C16H7F6N3O4
